US08183246B2
(+/−)-2-Methoxy-3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propan-1-ol
Put 1.014 g (9.65 mmol) 2-methoxypropane-1,3-diol in 20 ml THF. Add 542 mg (4.825 mmol) potassium tert.-butylate and stir for 15 min at RT. Then cool to 0° C. and add a solution of 650 mg (1.93 mmol) 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine in 10 ml THF dropwise in the space of 30 min. Then leave to return to RT and stir overnight at RT. Next, dilute with tert.-butylmethyl ether and water. Acidify with 10% citric acid solution and separate the phases. Re-extract the aqueous phase once with tert.-butylmethyl ether. Combine the organic phases and wash once with satd. sodium chloride solution. Then dry over magnesium sulphate and concentrate by evaporation. Purify the residue by chromatography on silica gel (solvent: cyclohexane/ethyl acetate 7:3); 587 mg (74.8% of theor.) of the target compound is obtained.

reactant | 2-methoxypropane-1,3-diol | 9.65 mmol, 1.014 g | COC(CO)CO | C4H10O3
reactant | 4-chloro-5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidine | 1.93 mmol, 650 mg | ClC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C19H13ClN2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | tert.-butylmethyl ether | C(C)(C)(C)OC | C5H12O
solvent | water | O | H2O
product | (+/−)-2-Methoxy-3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}propan-1-ol | COC(CO)COC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2 | C23H22N2O5
